US06864279B2
2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester (160 mg) in EtOH (1 mL) was added 1N NaOH (1.36 mL). The resulting mixture was heated to 50° C. and stirred for 2 hours, cooled to room temperature, acidified with Conc. HCl/ice and extracted with ether. The organic layer was dried over MgSO4 and conc. in vacuo to give 2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid as a pale yellow solid (120mg). MS: 323[M-H].

reactant | 2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester | 160 mg | C(C)OC(C(CC=1C(OC2=CC=CC=C2C1O)=O)CC1=CC=CC=C1)=O | C21H20O5
reactant | NaOH | 1N, 1.36 mL | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | 2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid | 120mg | C(C1=CC=CC=C1)C(C(=O)O)CC=1C(OC2=CC=CC=C2C1O)=O | C19H16O5
